US07084145B2
4-(4-Benzyl-5-methyl-4H-[1,2,4]triazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
4-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (5 g, 18.7 mmol) (see reference WO 0039125), benzylamine (2.5 ml, 22 mmol) and magnesium chloride (100 mg) were heated at 150° C. for 1 hour, a further quantity of benzylamine (2.5 ml, 22 mmol) was added and the mixture was heated at 150° C. for 4 hours. The reaction mixture was cooled to room temperature and the reaction mixture was purified by chromatography on silica gel using methanol in dichloromethane as eluant (3:97). The material isolated was triturated with diethyl ether to give the title compound as a white solid (4.69 g).

reactant | 4-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 18.7 mmol, 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1OC(=NN1)C | C13H21N3O3
reactant | benzylamine | 22 mmol, 2.5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 22 mmol, 2.5 ml | C(C1=CC=CC=C1)N | C7H9N
catalyst | magnesium chloride | 100 mg | [Cl-].[Mg+2].[Cl-]
product | 4-(4-Benzyl-5-methyl-4H-[1,2,4]triazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 4.69 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NN=C(N1CC1=CC=CC=C1)C | C20H28N4O2
